US09399623B2
4-{6-Chloro-5-[(4,4-difluoro-cyclohexylmethyl)-carbamoyl]-quinolin-2-yl}-piperidine-1-carboxylic acid tert-butyl ester (71)
The title compound was synthesized according to the procedure described in example 126 using 4-{6-chloro-5-[(4,4-difluoro-cyclohexylmethyl)-carbamoyl]-quinolin-2-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester, palladium on carbon and triethylsilane. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.80 (t, J=5.71 Hz, 1H), 8.00 (dd, J=10.82, 9.12 Hz, 2H), 7.77 (d, J=9.04 Hz, 1H), 7.61 (d, J=8.80 Hz, 1H), 4.07-4.10 (m, 2H), 3.05-3.11 (m, 2H), 2.87 (s, 3H), 2.01-2.04 (m, 2H), 1.83-1.91 (m, 5H), 1.62-1.77 (m, 4H), 1.41 (s, 9H), 1.22-1.29 (m, 2H). m/z: 522.0 [M+H]+

reactant | 4-{6-chloro-5-[(4,4-difluoro-cyclohexylmethyl)-carbamoyl]-quinolin-2-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC2=CC=C(C(=C2C=C1)C(NCC1CCC(CC1)(F)F)=O)Cl | C27H32ClF2N3O3
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 4-{6-Chloro-5-[(4,4-difluoro-cyclohexylmethyl)-carbamoyl]-quinolin-2-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=CC=C(C(=C2C=C1)C(NCC1CCC(CC1)(F)F)=O)Cl | C27H34ClF2N3O3
